### PR TITLE
[Merged by Bors] - feat(Order/Antisymmetrization): `AntisymmRel` lemmas

### PR DESCRIPTION
**Pull request by vihdzp**
These are mostly ported from [`SetTheory.PGame.Equiv`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Game/PGame.html#SetTheory.PGame.Equiv).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Antisymmetrization.lean [hunk 1]
```diff
@@ -27,39 +28,56 @@ such that `a ≤ b` and `b ≤ a`.
...
 
-variable {α β : Type*}
+variable {α β : Type*} {a b c d : α}
 
 section Relation
 
 variable (r : α → α → Prop)
 
-/-- The antisymmetrization relation. -/
+/-- The antisymmetrization relation `AntisymmRel r a b` means that both `r a b` and `r b a`. -/
```
Comment (YaelDillies) [inline Mathlib/Order/Antisymmetrization.lean:37]: Grammar seems off

File: Mathlib/Order/Antisymmetrization.lean [hunk 2]
```diff
@@ -27,39 +28,56 @@ such that `a ≤ b` and `b ≤ a`.
...
 def AntisymmRel (a b : α) : Prop :=
   r a b ∧ r b a
 
+theorem antisymmRel_iff {r} : AntisymmRel r a b ↔ r a b ∧ r b a := Iff.rfl
```
Comment (YaelDillies) [inline Mathlib/Order/Antisymmetrization.lean:41]: `rw [AntisymmRel` already does this, so we don't need it

File: Mathlib/Order/Antisymmetrization.lean [hunk 3]
```diff
@@ -27,39 +28,56 @@ such that `a ≤ b` and `b ≤ a`.
...
-theorem AntisymmRel.trans [IsTrans α r] {a b c : α} (hab : AntisymmRel r a b)
-    (hbc : AntisymmRel r b c) : AntisymmRel r a c :=
+theorem AntisymmRel.trans [IsTrans α r] (hab : AntisymmRel r a b) (hbc : AntisymmRel r b c) :
+    AntisymmRel r a c :=
   ⟨_root_.trans hab.1 hbc.1, _root_.trans hbc.2 hab.2⟩
 
-instance AntisymmRel.decidableRel [DecidableRel r] : DecidableRel (AntisymmRel r) := fun _ _ =>
-  instDecidableAnd
+instance [IsTrans α r] : IsTrans α (AntisymmRel r) where
+  trans _ _ _ := AntisymmRel.trans
```
Comment (YaelDillies) [inline Mathlib/Order/Antisymmetrization.lean:74]:
```suggestion
  trans _ _ _ := .trans
```

File: Mathlib/Order/Antisymmetrization.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/Order/Antisymmetrization.lean:37]: How exactly? Not a native speaker but as someone who's spoken English most my life this doesn't ring any alarm bells.

Comment (alreadydone) [reply Mathlib/Order/Antisymmetrization.lean:37]: Firstly, `AntisymmRel r` is a relation but `AntisymmRel r a b` is a proposition. Secondly, I would say "`r a b` and `r b a` both **holds**". Thirdly (not your fault), antisymmetrization is an operation/function, and `AntisymmRel r` should probably be called the antisymmetriz**ed** relation rather than the antisymmetrization relation.

I suggest that you keep it simple:
```suggestion
/-- The antisymmetrized relation `AntisymmRel r` is defined so that `AntisymmRel r a b ↔ r a b ∧ r b a`. -/
```
If you want to describe it with words, I'd say "`AntisymmRel r` is the conjunction of `r` with its flip".

File: Mathlib/Order/Antisymmetrization.lean [hunk 4]
```diff
@@ -112,9 +128,86 @@ end IsPreorder
...
+
+theorem AntisymmRel.lt_congr_left (h : AntisymmRel (· ≤ ·) a b) : a < c ↔ b < c :=
+  h.lt_congr (antisymmRel_refl _ c)
+
+theorem AntisymmRel.lt_congr_right (h : AntisymmRel (· ≤ ·) b c) : a < b ↔ a < c :=
+  (antisymmRel_refl _ a).lt_congr h
+
+theorem AntisymmRel.antisymmRel_congr
+    (h₁ : AntisymmRel (· ≤ ·) a b) (h₂ : AntisymmRel (· ≤ ·) c d) :
+      AntisymmRel (· ≤ ·) a c ↔ AntisymmRel (· ≤ ·) b d := by
```
Comment (alreadydone) [inline Mathlib/Order/Antisymmetrization.lean:199]:
```suggestion
    AntisymmRel (· ≤ ·) a c ↔ AntisymmRel (· ≤ ·) b d := by
```

File: Mathlib/Order/Antisymmetrization.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Order/Antisymmetrization.lean:37]: Sorry, scratch the third part. `AntisymmRel r` is not the antisymmetrized relation since it's not antisymmetric. It's the equivalence relation to take quotient by to get the Antisymmetrization, so "antisymmetrization relation" is a proper / correct name.

File: Mathlib/Order/Antisymmetrization.lean [hunk 5]
```diff
@@ -112,9 +128,86 @@ end IsPreorder
...
+  rw [antisymmRel_iff, antisymmRel_iff, h₁.le_congr h₂, h₂.le_congr h₁]
+
+theorem AntisymmRel.antisymmRel_congr_left (h : AntisymmRel (· ≤ ·) a b) :
+    AntisymmRel (· ≤ ·) a c ↔ AntisymmRel (· ≤ ·) b c :=
+  h.antisymmRel_congr (antisymmRel_refl _ c)
+
+theorem AntisymmRel.antisymmRel_congr_right (h : AntisymmRel (· ≤ ·) b c) :
+    AntisymmRel (· ≤ ·) a b ↔ AntisymmRel (· ≤ ·) a c :=
+  (antisymmRel_refl _ a).antisymmRel_congr h
```
Comment (alreadydone) [inline Mathlib/Order/Antisymmetrization.lean:208]: Do we really want these lemmas? They are all consequences of symmetry and transitivity of `AntisymmRel (· ≤ ·)`.

Comment (vihdzp) [reply Mathlib/Order/Antisymmetrization.lean]: All of them are encoding an important fact: all of the order relations are preserved up to order equivalence.

Comment (alreadydone) [reply Mathlib/Order/Antisymmetrization.lean]: IMO they should be stated with `AntisymmRel (· ≤ ·)` replaced by `r` satisfying `IsSymm _ r` and `IsTrans _ r` and moved to that file.

Comment (vihdzp) [reply Mathlib/Order/Antisymmetrization.lean]: This is *just* for the `antisymmRel_congr` lemmas, right? Otherwise I think they'd be false: `a ≤ b` does not imply `a ≤ c ↔ b ≤ c`.

Do you have any file in mind?

Comment (alreadydone) [reply Mathlib/Order/Antisymmetrization.lean]: Yeah, the three lemmas are what I commented on. Is it not showing as such?
image

The file where IsSymm and IsTrans are defined is Mathlib.Order.Defs.Unbundled.

Comment (vihdzp) [reply Mathlib/Order/Antisymmetrization.lean]: I've added the generalizations, but kept the specialized `antisymmRel_congr` lemmas for discoverability.

File: Mathlib/Order/Antisymmetrization.lean [hunk 6]
```diff
@@ -27,39 +28,55 @@ such that `a ≤ b` and `b ≤ a`.
...
 
 @[symm]
-theorem AntisymmRel.symm {a b : α} : AntisymmRel r a b → AntisymmRel r b a :=
+theorem AntisymmRel.symm : AntisymmRel r a b → AntisymmRel r b a :=
   And.symm
 
+instance : IsSymm α (AntisymmRel r) where
+  symm _ _ := AntisymmRel.symm
+
+theorem AntisymmRel.comm : AntisymmRel r a b ↔ AntisymmRel r b a :=
```
Comment (YaelDillies) [inline Mathlib/Order/Antisymmetrization.lean:64]:
```suggestion
theorem antisymmRel_comm : AntisymmRel r a b ↔ AntisymmRel r b a :=
```

File: Mathlib/Order/Antisymmetrization.lean [hunk 7]
```diff
@@ -27,39 +28,55 @@ such that `a ≤ b` and `b ≤ a`.
...
 variable (r : α → α → Prop)
 
-/-- The antisymmetrization relation. -/
+/-- The antisymmetrization relation `AntisymmRel r` is defined so that
+`AntisymmRel r a b ↔ r a b ∧ r b a`. -/
 def AntisymmRel (a b : α) : Prop :=
   r a b ∧ r b a
 
+theorem AntisymmRel.le [LE α] (h : AntisymmRel (· ≤ ·) a b) : a ≤ b := h.1
+theorem AntisymmRel.ge [LE α] (h : AntisymmRel (· ≤ ·) a b) : b ≤ a := h.2
```
Comment (YaelDillies) [inline Mathlib/Order/Antisymmetrization.lean:43]: Can you move this to just before the `Preorder` section?

File: Mathlib/Order/Antisymmetrization.lean [hunk 8]
```diff
@@ -112,9 +129,86 @@ end IsPreorder
...
+  trans := lt_of_lt_of_antisymmRel
+
+@[trans]
+theorem lt_of_antisymmRel_of_lt (h₁ : AntisymmRel (· ≤ ·) a b) (h₂ : b < c) : a < c :=
+  h₁.le.trans_lt h₂
+
+alias AntisymmRel.trans_lt := lt_of_antisymmRel_of_lt
+
+instance : @Trans α α α (AntisymmRel (· ≤ ·)) (· < ·) (· < ·) where
+  trans := lt_of_antisymmRel_of_lt
```
Comment (YaelDillies) [inline Mathlib/Order/Antisymmetrization.lean:174]:
```suggestion
theorem le_iff_lt_or_antisymmRel : a ≤ b ↔ a < b ∨ AntisymmRel (· ≤ ·) a b := by
  rw [lt_iff_le_not_le, AntisymmRel]
  tauto

@[trans]
theorem le_of_le_of_antisymmRel (h₁ : a ≤ b) (h₂ : AntisymmRel (· ≤ ·) b c) : a ≤ c :=
  h₁.trans h₂.le

@[trans]
theorem le_of_antisymmRel_of_le (h₁ : AntisymmRel (· ≤ ·) a b) (h₂ : b ≤ c) : a ≤ c :=
  h₁.le.trans h₂

@[trans]
theorem lt_of_lt_of_antisymmRel (h₁ : a < b) (h₂ : AntisymmRel (· ≤ ·) b c) : a < c :=
  h₁.trans_le h₂.le

@[trans]
theorem lt_of_antisymmRel_of_lt (h₁ : AntisymmRel (· ≤ ·) a b) (h₂ : b < c) : a < c :=
  h₁.le.trans_lt h₂

alias ⟨LE.le.lt_or_antisymmRel, _⟩ := le_iff_lt_or_antisymmRel
alias LE.le.trans_antisymmRel := le_of_le_of_antisymmRel
alias AntisymmRel.trans_le := le_of_antisymmRel_of_le
alias LT.lt.trans_antisymmRel := lt_of_lt_of_antisymmRel
alias AntisymmRel.trans_lt := lt_of_antisymmRel_of_lt

instance : @Trans α α α (· ≤ ·) (AntisymmRel (· ≤ ·)) (· ≤ ·) where
  trans := le_of_le_of_antisymmRel

instance : @Trans α α α (AntisymmRel (· ≤ ·)) (· ≤ ·) (· ≤ ·) where
  trans := le_of_antisymmRel_of_le

instance : @Trans α α α (· < ·) (AntisymmRel (· ≤ ·)) (· < ·) where
  trans := lt_of_lt_of_antisymmRel

instance : @Trans α α α (AntisymmRel (· ≤ ·)) (· < ·) (· < ·) where
  trans := lt_of_antisymmRel_of_lt
```
is the style we use in `Order.Basic`

File: Mathlib/Order/Antisymmetrization.lean [hunk 9]
```diff
@@ -27,39 +28,55 @@ such that `a ≤ b` and `b ≤ a`.
...
 
+theorem AntisymmRel.le [LE α] (h : AntisymmRel (· ≤ ·) a b) : a ≤ b := h.1
+theorem AntisymmRel.ge [LE α] (h : AntisymmRel (· ≤ ·) a b) : b ≤ a := h.2
+
 theorem antisymmRel_swap : AntisymmRel (swap r) = AntisymmRel r :=
   funext fun _ => funext fun _ => propext and_comm
 
 @[refl]
 theorem antisymmRel_refl [IsRefl α r] (a : α) : AntisymmRel r a a :=
   ⟨refl _, refl _⟩
```
Comment (YaelDillies) [inline Mathlib/Order/Antisymmetrization.lean:50]:
```suggestion
  ⟨refl _, refl _⟩

variable {r} in
lemma AntisymmRel.rfl [IsRefl α r] (a : α) : AntisymmRel r a a := antisymmRel_refl ..
```

File: Mathlib/Order/RelClasses.lean [hunk 10]
```diff
@@ -137,6 +137,22 @@ theorem trans_trichotomous_right [IsTrans α r] [IsTrichotomous α r] {a b c : 
 
 theorem transitive_of_trans (r : α → α → Prop) [IsTrans α r] : Transitive r := IsTrans.trans
 
+/-- In a symmetric and transitive relation, replacing the left argument in a relation by a related
+argument given an equivalent relation. -/
+theorem rel_congr_left [IsSymm α r] [IsTrans α r] {a b c : α} (h : r a b) : r a c ↔ r b c :=
```
Comment (YaelDillies) [inline Mathlib/Order/RelClasses.lean:142]: The docstring reads like there are two relations. Can you clarify?

Comment (vihdzp) [reply Mathlib/Order/RelClasses.lean:142]: I'm not really sure how to write this better. I think I'll just remove the comment, since this statement isn't particularly hard to read.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by eric-wieser** [comment]
bors merge

Thanks!
